US05190959
The procedure of Example 36 (a) was repeated except for using phenyl-3-thienylmethyl chloride and 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine instead of phenyl-2-thienylmethyl chloride and 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine to give 4-(phenyl-3-thienylmethoxy)-1-[3-(2-nitrophenoxy)propyl]piperidine hydrochloride.

reactant | phenyl-3-thienylmethyl chloride | C1(=CC=CC=C1)C(C1=CSC=C1)Cl | C11H9ClS
reactant | 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine | OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-] | C14H20N2O4
product | 4-(phenyl-3-thienylmethoxy)-1-[3-(2-nitrophenoxy)propyl]piperidine hydrochloride | Cl.C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-])C1=CSC=C1 | InChI=1S/C25H28N2O4S.ClH/c28-27(29)23-9-4-5-10-24(23)30-17-6-14-26-15-11-22(12-16-26)31-25(21-13-18-32-19-21)20-7-2-1-3-8-20;/h1-5,7-10,13,18-19,22,25H,6,11-12,14-17H2;1H
